US06440634B1
Synthesis of tris(4-tert-butylphenyl)sulfonium chloride
The end product was synthesized as in Synthesis Example 2 except that bis(4-tert-butylphenyl)sulfoxide was used instead of the phenyl sulfoxide and 4-tert-butylchlorobenzene was used instead of the chlorobenzene.

reactant | bis(4-tert-butylphenyl)sulfoxide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)C1=CC=C(C=C1)C(C)(C)C | C20H26OS
reactant | 4-tert-butylchlorobenzene | C(C)(C)(C)C1=CC=C(C=C1)Cl | C10H13Cl
product | tris(4-tert-butylphenyl)sulfonium chloride | [Cl-].C(C)(C)(C)C1=CC=C(C=C1)[S+](C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C(C)(C)C | InChI=1S/C30H39S.ClH/c1-28(2,3)22-10-16-25(17-11-22)31(26-18-12-23(13-19-26)29(4,5)6)27-20-14-24(15-21-27)30(7,8)9;/h10-21H,1-9H3;1H/q+1;/p-1
